US09359371B2
In THF (10 mL) were dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methyl sulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (152 mg, 0.34 mmol), 2-methyl-2,7-diazaspiro[3.5]nonane (70 mg, 0.50 mmol) and HATU (383 mg, 1 mmol). Triethylamine (68 mg, 0.67 mmol) was added dropwisely. The reaction was conducted at ambient temperature for 4 h, followed by addition of water (50 mL) and extraction with DCM. The organic phase was dried over sodium sulfate and purified by silica gel column chromatography (DCM/methanol=20/1) to give 4-((3-chloro-4-methoxybenzyl)amino)-2-(7-methyl-2,7-diazaspiro[3.5]nonan-2-yl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide as a white solid (16 mg, 9% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methyl sulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 0.34 mmol, 152 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)S(=O)C)C=CC1OC | C19H19ClN6O3S
reactant | 2-methyl-2,7-diazaspiro[3.5]nonane | 0.50 mmol, 70 mg | CN1CC2(C1)CCNCC2 | C8H16N2
reactant | HATU | 1 mmol, 383 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Triethylamine | 0.67 mmol, 68 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 4-((3-chloro-4-methoxybenzyl)amino)-2-(7-methyl-2,7-diazaspiro[3.5]nonan-2-yl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 16 mg, 9% yield | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)N2CC3(C2)CCN(CC3)C)C=CC1OC | C26H31ClN8O2
